US07319104B2
To a slurry of sodium carbonate (9.00 g, 84.91 mmol) in DMF (100 ml) was added dropwise cyclopropane carboxylic acid (4.5 ml, 56.50 mmol). The mixture was stirred for 15 min and then treated with 2,4′-dibromoacetophenone (15.71 g, 56.52 mmol). After 3 h, the mixture was partitioned between Et2O and water. The aqueous phase was extracted with Et2O (4×125 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to yield 2-(4-bromophenyl)-2-oxoethyl cyclopropane carboxylate as a yellow solid (15.81 g, 98%).

reactant | sodium carbonate | 84.91 mmol, 9.00 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclopropane carboxylic acid | 56.50 mmol, 4.5 ml | C1(CC1)C(=O)O | C4H6O2
reactant | 2,4′-dibromoacetophenone | 56.52 mmol, 15.71 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(4-bromophenyl)-2-oxoethyl cyclopropane carboxylate | 15.81 g, 98% | C1(CC1)C(=O)OCC(=O)C1=CC=C(C=C1)Br | C12H11BrO3
